US09024027B2
To a solution of methyl 2-(5-hydroxy-1,3-dioxoisoindolin-2-yl)acetate (78 mg, 0.332 mmol) in CH3CN (20 mL), K2CO3 (115 mg, 0.829 mmol) and 3-(bromomethyl)-pyridine hydrobromide (126 mg, 0.497 mmol) were added at room temperature. The reaction was heated at 80° C. for 2 hours. The insoluble was filtered off and washed with DCM; the filtrated was evaporated under vacuum; and the crude was partitioned between a saturated solution of Na2CO3 and DCM. The organic phase was washed with brine, dried over sodium sulfate, filtered and evaporated to dryness. The crude was purified by filtration on silica gel cartridge (petroleum ether/EtOAc 1/1 to petroleum ether/EtOAc 2/8) to afford methyl 2-(1,3-dioxo-5-(pyridin-3-ylmethoxy)isoindolin-2-yl)acetate (60 mg, 0.184 mmol, 55.4% yield, MS/ESI+ 327.0 [MH]+).

reactant | methyl 2-(5-hydroxy-1,3-dioxoisoindolin-2-yl)acetate | 0.332 mmol, 78 mg | OC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC)=O | C11H9NO5
reactant | K2CO3 | 0.829 mmol, 115 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-(bromomethyl)-pyridine hydrobromide | 0.497 mmol, 126 mg | Br.BrCC=1C=NC=CC1
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | methyl 2-(1,3-dioxo-5-(pyridin-3-ylmethoxy)isoindolin-2-yl)acetate | 0.184 mmol, 60 mg, 55.4% yield | O=C1N(C(C2=CC(=CC=C12)OCC=1C=NC=CC1)=O)CC(=O)OC | C17H14N2O5
